US06335409B1
trans-4′-[4-[3-(2-Methyl-acryloyloxy)-propyl]-cyclohexyl]-biphenyl-4-carboxaldehyde
Firstly 9.4 ml of triethylamine and then 2.63 ml of methanesulphonyl chloride were added dropwise at −25° C. to a solution of 2.9 ml of methacrylic acid in 30 ml of tetrahydrofuran. Thereafter, the mixture was stirred at −25° C. for 1 hour and then a solution of 9.9 g of trans-4′-[4-(3-hydroxy-propyl)-cyclohexyl]-biphenyl-4-carboxaldehyde and 1.1 g of 4-dimethylamino-pyridine in 50 ml of tetrahydrofuran was added dropwise. Thereafter, the mixture was left to react at 0° C. for 2.5 hours and then at room temperature for 18 hours. Thereupon, the reaction mixture was filtered over Celite, the filtrate was partitioned between ether and water, the ether phase was dried over magnesium sulphate and evaporated. This gave 11.5 g of crude trans-4′-[4-[3-(2-methyl-acryloyloxy)-propyl]-cyclohexyl]-biphenyl-4-carboxaldehyde in solid form.

reactant | triethylamine | 9.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 2.63 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | methacrylic acid | 2.9 ml | C(C(=C)C)(=O)O | C4H6O2
reactant | trans-4′-[4-(3-hydroxy-propyl)-cyclohexyl]-biphenyl-4-carboxaldehyde | 9.9 g | OCCC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C22H26O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylamino-pyridine | 1.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | trans-4′-[4-[3-(2-Methyl-acryloyloxy)-propyl]-cyclohexyl]-biphenyl-4-carboxaldehyde | CC(C(=O)OCCC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O)=C | C26H30O3
